US03954438
1-Ethyl-6-methoxy-2-methyl-5-trifluoromethylbenzimidazole
A solution of 24.4g. (0.09 mole) of N-ethyl-3-methoxy-6-nitro-4-trifluoromethylaniline in 200 ml. of ethyl acetate, plus 100 ml. of ethanol, was hydrogenated in the presence of 0.2g. of platinum oxide at room temperature. The theoretical amount of hydrogen was absorbed in 19 hours of shaking at 60 psi. The catalyst was removed by filtration and the solvent evaporated at reduced pressure. The solid residue was dissolved in 200 ml. of absolute ethanol and 12.58g. (0.10 mole) of ethyl methylcarboximidate hydrochloride added. The mixture was stirred overnight at room temperature and the solvent removed at reduced pressure. Trituration of the brown residue with 200 ml. of chloroform, filtration, and evaporation of solvent from the filtrate left the crude residual product. Crystallization from hexane--CCl4 (3:1) gave 18.1g. (76%) of brown, shiny needles. Recrystallization from hexane gave the pure product, m.p. 127°-129.5°C. whose structure was confirmed by an nmr spectrum.

reactant | N-ethyl-3-methoxy-6-nitro-4-trifluoromethylaniline | 0.09 mole | C(C)NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)OC | C10H11F3N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-6-methoxy-2-methyl-5-trifluoromethylbenzimidazole | C(C)N1C(=NC2=C1C=C(C(=C2)C(F)(F)F)OC)C | C12H13F3N2O
